US04220649
In 5 ml of isopropyl alcohol were dissolved 1.5 g (0.01 mole) of 3-nitrobenzaldehyde, 2.6 g (0.01 mole) of 1-benzyl-3-acetoacetyloxypyrrolidine, and 1.3 g (0.01 mole) of β-aminocrotonic acid methyl ester and then the solution was refluxed for 8 hours. The solvent was distilled off under reduced pressure, the residue obtained was dissolved in a small amount of chloroform, and the solution was applied to silica gel column chromatography (column diameter 1.5 cm, height 20 cm, and about 200 ml of chloroform was used as the eluant). The eluates were collected and concentrated to give 3.4 g of oily 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-(1-benzylpyrrolidin-3-yl)ester-5-methyl ester.

reactant | 3-nitrobenzaldehyde | 0.01 mole, 1.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 1-benzyl-3-acetoacetyloxypyrrolidine | 0.01 mole, 2.6 g | C(C1=CC=CC=C1)N1CC(CC1)OC(CC(=O)C)=O | C15H19NO3
reactant | β-aminocrotonic acid methyl ester | 0.01 mole, 1.3 g | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | about 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,6-dimethyl-4-(3'-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid-3-(1-benzylpyrrolidin-3-yl)ester-5-methyl ester | 3.4 g | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC1CN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C27H29N3O6
